US04052362
In a flask were placed 5 g of p-methoxycarbonylbenzoylhydrazine, 4.3 g of cinnamoyl chloride and 30 ml of N-dimethylacetamide, and the reaction was carried out with stirring at 30° - 40° C for 6 hours. After completion of the reaction, the produced precipitate was collected by filtration and washed with water. The so obtained precipitate was then recrystallized twice from acetic acid and dried under reduced pressure to yield 6 g of N-cinnamoyl-N'-(p-methoxycarbonylbenzoyl)hydrazine as white crystals, m.p. 207° C. Analysis: Calculated for C18H16N2O4 : C, 66.67%; H, 4.94%; N, 8.64%, Found: C, 66.51%; H, 4.98%; N, 8.71%.

reactant | p-methoxycarbonylbenzoylhydrazine | 5 g | COC(=O)C1=CC=C(C(=O)NN)C=C1 | C9H10N2O3
reactant | cinnamoyl chloride | 4.3 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
product | N-cinnamoyl-N'-(p-methoxycarbonylbenzoyl)hydrazine | 6 g | C(C=CC1=CC=CC=C1)(=O)NNC(C1=CC=C(C=C1)C(=O)OC)=O | C18H16N2O4
